US06447656B1
11-Mercaptoundecanoic acid (G)
11-Bromoundecanoic acid (20.0 g, 0.075 mol) and thiourea (6.3 g, 1.1 equiv.) were refluxed in ethanol (250 mL) overnight. Sodium hydroxide (6.3 g) in water (20 mL) was added and the mixture was further refluxed for 2 hr. The solution was cooled and acidified with 1N HCl. Ethanol was evaporated under reduced pressure and the aqueous residue was extracted With CH2Cl2. The combined organic extracts were dried (MgSO4) and evaporated to give white powder. Yield: 15.0 g (91%)

reactant | 11-Bromoundecanoic acid | 0.075 mol, 20.0 g | BrCCCCCCCCCCC(=O)O | C11H21BrO2
reactant | thiourea | 6.3 g, 1.1 equiv. | NC(=S)N | CH4N2S
reactant | Sodium hydroxide | 6.3 g | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | ethanol | 250 mL | C(C)O | C2H6O
solvent | water | 20 mL | O | H2O
product | 11-Mercaptoundecanoic acid | SCCCCCCCCCCC(=O)O | C11H22O2S
